US05132310
A mixture of 2.3 g (10 mmol) of rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol, 3.06 g (15 mmol) of iodobenzene, 0.39 g of triphenylphosphine, 95 mg of cuprous iodide, 3 ml of triethylamine and 100 ml of acetonitrile was degassed with argon for 10 minutes. Palladium acetate, 110 mg (0.5 mmol), was then added and stirring under argon was continued for 3 hours. The reaction mixture was evaporated under reduced pressure and the residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate solution. The organic phase was separated, dried over sodium sulfate and evaporated. The crude product was chromatographed over 100 g of silica gel (Merck 70-230 mesh) using methylene chloride for elution. The clean fractions were combined and evaporated and the residue was crystallized from hexane to yield 2.1 g (68%) of rac-3,4-dihydro-2,5,7,8-tetramethyl2-(phenylethynyl)-2H-1-benzopyran-6-ol with m.p. 109°-111° C. The analytical sample was recrystallized from hexane and had m.p. 111°-113° C. Anal. Calcd. for C21H22O2 : C, 82.32; H, 7.24 Found: C, 82.02; H, 7.30

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 10 mmol, 2.3 g | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | iodobenzene | 15 mmol, 3.06 g | IC1=CC=CC=C1 | C6H5I
reactant | triphenylphosphine | 0.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | rac-3,4-dihydro-2,5,7,8-tetramethyl2-(phenylethynyl)-2H-1-benzopyran-6-ol | 2.1 g, 68% | CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C#CC2=CC=CC=C2 | C21H22O2
